US06982348B2
1,1-dimethylethyl(1RS,2RS)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethylcarbamate
To a solution of 1,1-dimethylethyl (4RS,5RS)-5-(4-fluorophenyl)-2-oxo-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidine-3-carboxylate (3.7 g, 8.42 mmol) in methanol (20 ml) was gradually added a solution of sodium hydroxide (0.40 g, 10.10 mmol) in methanol (20 ml) under ice-cooling. The reaction solution was stirred for 1 hr, diluted with 1N hydrochloric acid (15 ml) and water (100 ml), and extracted with ethyl acetate (100 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) and recrystallized from ethyl acetate-hexane to give the title compound (2.24 g, 64%).

reactant | 1,1-dimethylethyl (4RS,5RS)-5-(4-fluorophenyl)-2-oxo-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidine-3-carboxylate | 8.42 mmol, 3.7 g | FC1=CC=C(C=C1)C1C(N(C(O1)=O)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C(F)(F)F | C22H21F4NO4
reactant | sodium hydroxide | 10.10 mmol, 0.40 g | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
solvent | hydrochloric acid | 1N, 15 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 1,1-dimethylethyl(1RS,2RS)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethylcarbamate | 2.24 g, 64% | FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O)O | C21H23F4NO3
